US05336673
To 10.0 g(61.7 mmol) of N-aminophthalimide was added a solution of 12 ml(72.4 mmol) of 2,5-diethoxytetrahydrofuran in 100 ml of dioxane and 10 ml of 5 N hydrohloric acid was added thereto. The reaction mixture was stirred for 1 hour and cooled to 5° C. The resulting precipitate was filtered, recrystallized from dioxane:water(1:3), washed with ethanol and dried to give 10.3 g of 1-phthalimidopyrrole. This product was dissolved in 60 ml of methanol and 3 ml of 82% hydrazine hydrate was slowly added thereto. After refluxing the reaction mixture for 30 min, cooled to 0°~5° C. and 1.5 ml of glacial acetic acid was added thereto. The resulting precipitate was filtered off and the filtrate was concentrated under the reduced pressure to remove methanol. The concentrate was washed with diethyl ether and vacuum-distilled to give 2.4 g of the desired compound(47.3%).

reactant | N-aminophthalimide | 61.7 mmol, 10.0 g | NN1C(C=2C(C1=O)=CC=CC2)=O | C8H6N2O2
reactant | 2,5-diethoxytetrahydrofuran | 72.4 mmol, 12 ml | C(C)OC1OC(CC1)OCC | C8H16O3
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 1-phthalimidopyrrole | 10.3 g | C1(C=2C(C(N1N1C=CC=C1)=O)=CC=CC2)=O | C12H8N2O2
